US07892711B2
10.0 g (65.7 mmol) of methyl salicylate and 33 ml of n-butylamine were dissolved in 100 ml of methanol, followed by heating at reflux for 8 hours while stirring. Methanol was distilled off under reduced pressure, and the residue was acidified by adding an aqueous 2 N hydrochloric acid, followed by extraction with dichloromethane. The organic layer was washed in turn with water and saturated sodium hydrogen carbonate, and then dried over anhydrous magnesium sulfate. The organic layer was filtered, and the filtrate was concentrated under reduced pressure, and then the resulting residue was purified by silica gel column chromatography (eluant hexane/ethyl acetate=10/1 to 5/1) to obtain 10.0 g (yield: 79%) of salicylic acid n-butylamide as an oily substance. 1H—NMR spectrum data of salicylic acid n-butylamide are as follows.

reactant | methyl salicylate | 65.7 mmol, 10.0 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | n-butylamine | 33 ml | C(CCC)N | C4H11N
solvent | methanol | 100 ml | CO | CH4O
product | salicylic acid n-butylamide | 10.0 g, yield: 79% | C(CCC)NC(C=1C(O)=CC=CC1)=O | C11H15NO2
